US07361763B2
Step 3: Synthesis of 5-Bromo-3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo [2,3-b]pyridine
Into a 500 mL round bottomed flask were added 5-Bromo-3-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (11.80 g, 20.96 mmol), 2-methoxyphenyl boronic acid (3.76 g, 24.74 mmol), dichlorobis(triphenylphosphine)palladium(II) (0.756 g, 1.08 mmol), acetonitrile (100 mL) and 100 mL of 2M Na2CO3 (aq). The flask was fitted with a reflux condenser and heated at 60° C. with rapid stirring under N2 for 8 h. The reaction mixture was filtered to obtain a grey-tan precipitate, which was dissolved in EtOAc and washed with water followed by brine. Concentration of this solution afforded 7.70 g (80%) of the title compound as a tan powder. 1H-NMR (500 MHz, d6-DMSO) δ 8.50 (d, J=2.0 Hz, 1H), 8.14 (d, J=2.5 Hz, 1H), 8.07 (s, 1H), 8.03 (d, J=8.0 Hz, 2H), 7.54 (dd, J=1.5, 7.5 Hz, 1H), 7.43 (d, J=8.0 Hz, 2H), 7.39 (m, 1H), 7.15 (d, J=7.5 Hz, 1H), 7.05 (t, J=7.0 Hz, 1H), 3.80 (s. 3H), 2.34 (s, 3H); MS: m/z 456.9/458.9 [MH+].

reactant | 5-Bromo-3-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 20.96 mmol, 11.80 g | BrC=1C=C2C(=NC1)N(C=C2I)S(=O)(=O)C2=CC=C(C=C2)C | C14H10BrIN2O2S
reactant | 2-methoxyphenyl boronic acid | 24.74 mmol, 3.76 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | acetonitrile | 100 mL | C(C)#N | C2H3N
reactant | Na2CO3 | 2M, 100 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 1.08 mmol, 0.756 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Bromo-3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo [2,3-b]pyridine | 7.70 g, 80% | BrC=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C21H17BrN2O3S
